US07241760B2
4-{6-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-yl}-thiomorpholine
The title compound, MS: m/e=395.1, 397.1 (M+H+), was prepared in accordance with the general method of example 27 from 2-[4-(3-chloro-phenylethynyl)-2-methylimidazol-1-yl]-6-fluoro-pyridine and thiomorpholine.

reactant | 2-[4-(3-chloro-phenylethynyl)-2-methylimidazol-1-yl]-6-fluoro-pyridine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=NC(=CC=C1)F)C | C17H11ClFN3
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 4-{6-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridin-2-yl}-thiomorpholine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CC=CC(=N1)N1CCSCC1)C | C21H19ClN4S
